US05037827
(1) Synthesis of 4-cyclohexylmethoxy-3,5-dimethoxybenzaldehyde
49 g hydrogenated sodium was added to 1.8 lit. of N,N-dimethylformamide solution of 171.6 g of syringaldehyde, and these were stirred at 60° C. for 30 minutes. Under incubation on ice 200 g of cyclohexylbromide and 92 g of potassium iodide were further added, and the whole was stirred again at 80° C. for 1 hour. After cooling down, 1.5 lit. of water was poured to extract with ethylacetate. Then this was dried up with magnesium sulfate.

reactant | N,N-dimethylformamide | 1.8 lit. | CN(C=O)C | C3H7NO
reactant | syringaldehyde | 171.6 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | cyclohexylbromide | C1(CCCCC1)Br | C6H11Br
reactant | potassium iodide | 92 g | [I-].[K+]
solvent | water | 1.5 lit. | O | H2O
product | 4-cyclohexylmethoxy-3,5-dimethoxybenzaldehyde | C1(CCCCC1)COC1=C(C=C(C=O)C=C1OC)OC | C16H22O4
